US08664210B2
4α-Acetoxyandrostan-3,17-dione
A solution of the 3α:3β mixture of 4α-acetoxyandrostan-3,17β-diol (380 mg), TPAP (38 mg), NMO (383 mg) under N2 in DCM (15 ml) was stirred in the presence of 4 Å molecular sieves (540 mg) for 1 h. The mixture was filtered and the filtrate was purified by flash chromatography (SiO2, n-hexane/EtOAc 7/3) to give the title compound (353 mg, 93%).

reactant | 4α-acetoxyandrostan-3,17β-diol | 380 mg | C(C)(=O)O[C@H]1C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CCC1O)C)O | C21H34O4
reactant | NMO | 383 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | TPAP | 38 mg | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
product | 4α-Acetoxyandrostan-3,17-dione | 353 mg, 93% | C(C)(=O)O[C@H]1C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)=O | C21H30O4
